US06051712
4.10 g (21.0 mmol) of (3RS,4RS)-4-(4-fluorophenyl)-piperidin-3-ol were dissolved in 35 ml of absolute dimethylformamide. Thereto there were added at 0° C. 3.2 ml (23.0 mmol) of triethylamine and subsequently dropwise a solution of 5.04 g (23.1 mmol) of di-tert-butyl dicarbonate in 15 ml of dimethylformamide. The mixture was warmed to room temperature and stirred for 20 hours. The solvent was distilled off at 0.1 mm Hg at 50-55° C. Subsequently, the residue obtained was partitioned between methylene chloride and water, the organic phase was dried over magnesium sulphate and finally the solvent was removed under reduced pressure. The crude product (7.09 g) was purified by chromatography on silica gel with a 2:3 mixture of ethyl acetate and hexane as the eluent. There were obtained 5.45 mg (88% of theory) of tert-butyl (3RS,4RS)-4-(4-fluorophenyl)-3-hydroxy-piperidine-1-carboxylate; MS: 239 (M-C4H8)+.

reactant | (3RS,4RS)-4-(4-fluorophenyl)-piperidin-3-ol | 21.0 mmol, 4.10 g | FC1=CC=C(C=C1)C1C(CNCC1)O | C11H14FNO
reactant | triethylamine | 23.0 mmol, 3.2 ml | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 23.1 mmol, 5.04 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dimethylformamide | 35 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | tert-butyl (3RS,4RS)-4-(4-fluorophenyl)-3-hydroxy-piperidine-1-carboxylate | 5.45 mg, 88% | FC1=CC=C(C=C1)C1C(CN(CC1)C(=O)OC(C)(C)C)O | C16H22FNO3
